US05493020
A solution of 1.44 g (7.15 mmol, 1.1 eq.) bromoacetyl bromide in 10 mL of methylene chloride was added over 10 mins. to a stirred biphasic solution of 2.38 g (6.5 mmol, 1.0 eq.) of N-(5-(4-cyanobenzyloxy)-2-aminobenzoyl)-β-alanine ethyl ester in 100 ml of methylene chloride and 30 mL of water cooled to 0° C. The reaction was complete in 1/2 hr. (TLC, 96 CH2Cl2 :4 MeOH, product Rf =0.71) and was partitioned between dilute aqueous sodium bicarbonate and methylene chloride. The organic phase was dried over sodium sulfate, filtered and concentrated to give 3.11 g (98%) of off white crystals of N-(5-(4-cyanobenzyloxy)-2-(bromoacetyl)aminobenzoyl)-β-alanine ethyl ester which was used unpurified but may be recrystallized from ethyl acetate/hexane. 1H NMR (CDCl3, δTMS) 8.41(1H,d,ArH), 7.60 (4H,abq,ArH), 7.02(2H,d,ArH), 6.98(1H,t,NH), 5.12 (2H,s,ArCH2O),4.16 (2H,q, COOCH2),3.97 (2H,s,CH2Br), 3.68 (2H,Q,NCH2), 2.61 (2H,t,CH2COO), 1.25 (3H,t,CH3). IR (KBr): 3389(NH), 3355(NH), 2226(CN), 1735(ester), 1675,1642(amides),1609,1523,1423,1244,1184,819. MS (FAB,M+H+) cald for C22H22N3O5Br 488.3, found (M+H+) 489.

reactant | bromoacetyl bromide | 7.15 mmol, 1.44 g, 1.1 eq. | BrCC(=O)Br | C2H2Br2O
reactant | N-(5-(4-cyanobenzyloxy)-2-aminobenzoyl)-β-alanine ethyl ester | 6.5 mmol, 2.38 g, 1.0 eq. | C(C)OC(CCNC(C1=C(C=CC(=C1)OCC1=CC=C(C=C1)C#N)N)=O)=O | C20H21N3O4
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | N-(5-(4-cyanobenzyloxy)-2-(bromoacetyl)aminobenzoyl)-β-alanine ethyl ester | C(C)OC(CCNC(C1=C(C=CC(=C1)OCC1=CC=C(C=C1)C#N)NC(CBr)=O)=O)=O | C22H22BrN3O5
